US08455703B2
Synthesis of 1-methyl-1-octylpyrrolidinium tetracyanoborate as Illustrated in FIG. 10
Analogously to Example A, 61 g of potassium tetracyanoborate are added to 100 g of 1-methyl-1-octylpyrrolidinium bromide, and the mixture is subjected to corresponding work-up, giving a clear, yellowish, viscous liquid.

reactant | potassium tetracyanoborate | 61 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 1-methyl-1-octylpyrrolidinium bromide | 100 g | [Br-].C[N+]1(CCCC1)CCCCCCCC
product | 1-methyl-1-octylpyrrolidinium tetracyanoborate | C(#N)[B-](C#N)(C#N)C#N.C[N+]1(CCCC1)CCCCCCCC | InChI=1S/C13H28N.C4BN4/c1-3-4-5-6-7-8-11-14(2)12-9-10-13-14;6-1-5(2-7,3-8)4-9/h3-13H2,1-2H3;/q+1;-1
